US06333323B1
(1) 1-(1-Benzenesulfonyl-5-chloroindol-3-yl)-3-(2-methoxyphenyl)-propan-1,3-dione
A solution of 500 mg (1.5 mmol) of 3-acetyl-1-benzenesulfonyl-5-chloroindole in THF (5 ml) was cooled at −78° C. Subsequently, to the reaction mixture was added 1.8 ml (1.8 mmol) of 1M LHMDS in THF. The solution was gradually warmed to 0° C. and cooled again to −78° C. To the solution was added 310 mg (1.8 mmol) of 2-methoxybenzoylchloride. The reaction mixture was warmed to room temperature. After 30 minutes, the mixture was treated with water and acidified with 6 N hydrochloric acid. The mixture was extracted with ethyl acetate and washed with water, and then dried. The solvent was removed and the obtained residue was chromatographed on silica gel with ethyl acetate-n-hexane as eluent. The fraction of the objective was concentrated to give 160 mg of the titled compound as a foam. Yield: 23%.

reactant | 3-acetyl-1-benzenesulfonyl-5-chloroindole | 1.5 mmol, 500 mg | C(C)(=O)C1=CN(C2=CC=C(C=C12)Cl)S(=O)(=O)C1=CC=CC=C1 | C16H12ClNO3S
reactant | LHMDS | 1.8 mmol, 1M, 1.8 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-methoxybenzoylchloride | 1.8 mmol, 310 mg | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-Benzenesulfonyl-5-chloroindol-3-yl)-3-(2-methoxyphenyl)-propan-1,3-dione | 160 mg, Yield: 23% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)Cl)C(CC(=O)C1=C(C=CC=C1)OC)=O | C24H18ClNO5S
